US06660744B1
Ethyl acetoacetate (3.49 g, 0.02684 mol) and 4-bromophenylhydrazine hydrochloride (6.00 g, 0.02684 mol) were refluxed in acetic acid (50 mL) for 4 hours. The precipitate was removed by filtration, the filtrate concentrated under reduced pressure and the residue purified by flash chromatography on silica using ethyl acetate/n-heptane (7:93) as mobile phase to yield 1-(4-bromophenyl)-1H-5-pyrazolyl ethyl ether (2.63 g, 0.00936 mol) as an off-white solid.

reactant | Ethyl acetoacetate | 0.02684 mol, 3.49 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 4-bromophenylhydrazine hydrochloride | 0.02684 mol, 6.00 g | Cl.BrC1=CC=C(C=C1)NN
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 1-(4-bromophenyl)-1H-5-pyrazolyl ethyl ether | 0.00936 mol, 2.63 g | C(C)OC1=CC=NN1C1=CC=C(C=C1)Br | C11H11BrN2O
